US07538233B2
4-But-3-enyloxy-1-benzopyran-2-one
4-Hydroxycoumarin (10.93 mmol, 1.77 g), 4-bromo-1-butene (10.93 mmol, 1.48 g) and K2CO3 (33 mmol, 4.55 g) is suspended in 50 mL of acetone, and the reaction is heated to 55° C. for 2.5 days the reaction mixture is filtered and the filtrate is evaporated under reduced pressure. A small amount of the resulting solid is purified by column chromatography to afford an analytically pure sample of the title compound. 1H NMR (DMSO-d6, 300 MHz) δ 7.78 (1H, dd, J=1.5, 7.75 Hz), 7.66 (1H, m), 7.38 (2H, m), 5.93 (1H, m), 5.92 (1H, s), 5.20 (2H, m), 2.59 (2H, m), 2.50 (2H, m); MS (ESI, Pos.) calcd for C13H12O3 m/z [M+H]=217.1, found 217.1.

reactant | 4-Hydroxycoumarin | 10.93 mmol, 1.77 g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | 4-bromo-1-butene | 10.93 mmol, 1.48 g | BrCCC=C | C4H7Br
reactant | K2CO3 | 33 mmol, 4.55 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 4-But-3-enyloxy-1-benzopyran-2-one | C(CC=C)OC1=CC(OC2=C1C=CC=C2)=O | C13H12O3
